US07544803B2
2′-[(3-Pyrrolidin-1-yl-propylamino)-methyl]-biphenyl-4-carboxylic acid quinolin-7-ylamide.
To a solution of 2′-formyl-biphenyl-4-carboxylic acid quinolin-7-ylamide, Example 28, (50 mg, 0.14 mmol), 3-pyrrolidin-1-yl-propylamine (54 mg, 0.42 mmol, Aldrich) in DMF (1 mL) and MeOH (1 mL) was added glacial AcOH (1 drop), and the mixture was stirred at 50° C. for 30 min. Sodium triacetoxyborohydride (136 mg, 0.64 mmol) was added in small portions and the reaction mixture was stirred at 50° C. for 30 min. The reaction mixture was cooled to room temperature and concentrated in vacuo. The solid residue was dissolved in EtOAc (60 mL) and washed with 0.5 N NaOH (10 mL). The EtOAc layer was separated, washed with brine, dried over MgSO4, and filtered. The filtrate was evaporated in vacuo and the residue was purified by silica gel column chromatography (gradient, 5 to 10% (2 M NH3 in MeOH) in CH2Cl2) to provide the title compound as light-yellow oil. MS (ESI, pos. ion.) m/z: 465 (M+1).

reactant | 2′-formyl-biphenyl-4-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)C=O | C23H16N2O2
reactant | 3-pyrrolidin-1-yl-propylamine | 0.14 mmol, 50 mg | N1(CCCC1)CCCN | C7H16N2
reactant | Sodium triacetoxyborohydride | 0.64 mmol, 136 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 1 mL | CO | CH4O
catalyst | AcOH | 1 drop | CC(=O)O | C2H4O2
product | 2′-[(3-Pyrrolidin-1-yl-propylamino)-methyl]-biphenyl-4-carboxylic acid quinolin-7-ylamide | N1=CC=CC2=CC=C(C=C12)NC(=O)C1=CC=C(C=C1)C1=C(C=CC=C1)CNCCCN1CCCC1 | C30H32N4O
